US09024027B2
To a stirred solution of tert-butyl 2-(1,3-dioxo-5-(N-(thiophen-2-ylmethyl)methylsulfonamido)isoindolin-2-yl)acetate (580 mg, 1.287 mmol) in dioxane (15 ml), aqueous 12M HCl (1 ml, 12.00 mmol) was added drop wise. The resulting mixture was stirred at 50° C. for 4 hours. The volatiles were removed under vacuum and the crude 2-(1,3-dioxo-5-(N-(thiophen-2-ylmethyl)methylsulfonamido) isoindolin-2-yl)acetic acid (490 mg, 1.242 mmol, 97% yield, MS/ESI+ 395.0 [MH]+). was used without further purification.

reactant | tert-butyl 2-(1,3-dioxo-5-(N-(thiophen-2-ylmethyl)methylsulfonamido)isoindolin-2-yl)acetate | 1.287 mmol, 580 mg | O=C1N(C(C2=CC(=CC=C12)N(S(=O)(=O)C)CC=1SC=CC1)=O)CC(=O)OC(C)(C)C | C20H22N2O6S2
reactant | HCl | 12.00 mmol, 12M, 1 ml | Cl | ClH
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 2-(1,3-dioxo-5-(N-(thiophen-2-ylmethyl)methylsulfonamido) isoindolin-2-yl)acetic acid | 1.242 mmol, 490 mg, 97% yield | O=C1N(C(C2=CC(=CC=C12)N(S(=O)(=O)C)CC=1SC=CC1)=O)CC(=O)O | C16H14N2O6S2
